US04563459
A mixture of 2.8 g (0.01 mol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 3.4 g (0.03 mol) of 2-ethylpiperazine in 15 ml of dimethylsulphoxide is heated at 140° C. for 2 hours. The solution is concentrated under a high vacuum, the residue is heated to 90° C. with 30 ml of water and the precipitate which has separated out is filtered off with suction, washed with methanol and water and isolated. 1.1 g (31% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-ethyl-1-piperazinyl)-3-quinolinecarboxylic acid monohydrate of decomposition point 255°-258° C. are obtained.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.01 mol, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 2-ethylpiperazine | 0.03 mol, 3.4 g | C(C)C1NCCNC1 | C6H14N2
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-ethyl-1-piperazinyl)-3-quinolinecarboxylic acid monohydrate | 1.1 g, 31% | O.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CC)F)=O)C(=O)O | InChI=1S/C19H22FN3O3.H2O/c1-2-11-9-22(6-5-21-11)17-8-16-13(7-15(17)20)18(24)14(19(25)26)10-23(16)12-3-4-12;/h7-8,10-12,21H,2-6,9H2,1H3,(H,25,26);1H2
